US07951819B2
1-(3,4-Difluorophenyl)-3-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)urea (CJS 3720)
Method G was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3,4-difluoro-phenylisocyanate to afford the title compound (16 mg, 23%). 1H-NMR (DMSO), δ (ppm), J (Hz): 6.45 (d, 1H, HPyr, J=5.9), 6.76 (s, 1H, Harom2′, J=2.2, J=11.05), 7.26-7.40 (m, 5H, Harom 6′, Harom 2, Harom 4, Harom 5, Harom 6), 7.56-7.68 (m, 1H, Harom 5′), 7.78 (d, 1H, HPyr), 8.55 (d, 1H, Harom 4′, J=7.2), 9.00 (s, 1H, NHurea), 9.01 (s, 1H, NHurea), 11.17 (s, 1H, NHim), 11.36 (s, 1H, NHim); MS-LC, Rf=7.07 min, (C19H13F2N5O3), m/z: 398.1 [M++1], 100.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3,4-difluoro-phenylisocyanate | FC=1C=C(C=CC1F)N=C=O | C7H3F2NO
product | 1-(3,4-Difluorophenyl)-3-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)urea | 16 mg, 23% | FC=1C=C(C=CC1F)NC(=O)NC1=CC(=CC=C1)OC1=C2C(=NC=C1)NC(N2)=O | C19H13F2N5O3
